US08530520B2
2,2′-(1,3-Phenylene)diethanol (52).
2,2′-(1,3-Phenylene)diacetic acid (1.000 g, 5.15 mmol), dissolved in anhydrous tetrahydrofuran (15 mL) was cooled at 0° C. in an ice bath and then added with lithium aluminum hydride (0.5860 g, 15.45 mmol). The reaction mixture was stirred at 0° C. for 3 h, and finally quenched by addition of hydrochloric acid (1N) until pH=7. The solution was filtered through filter paper, and extracted with ethyl acetate (15 mL×2). The organic layer was washed with brine (15 mL×2), dried over sodium sulfate, filtered and concentrated to dryness. The residue so obtained was purified by silica gel column chromatography eluting with a gradient of ethyl acetate in hexanes (50%-80%) to furnish the desired product. Yield 61%.

reactant | 2,2′-(1,3-Phenylene)diacetic acid | 5.15 mmol, 1.000 g | C1(=CC(=CC=C1)CC(=O)O)CC(=O)O | C10H10O4
reactant | lithium aluminum hydride | 15.45 mmol, 0.5860 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2,2′-(1,3-Phenylene)diethanol | Yield 61% | C1(=CC(=CC=C1)CCO)CCO | C10H14O2
